US04256751
1.26 g of (3S)-2-[(2S)-3-benzoylthio-2-methylpropionyl]-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid dicyclohexylamine salt are suspended in a mixture of 15 ml of 10 % aqueous ammonia and 5 ml of methanol. The mixture is stirred at room temperature for 3.5 hours in nitrogen gas atmosphere. The reaction mixture is condensed to dryness under reduced pressure, and a mixture of ether and n-hexane is added thereto. Crystalline precipitates are collected by filtration, washed with ether and recrystallized from ethanol. 0.85 g of (3S)-2-[(2S)-3-mercapto-2-methylpropionyl]-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid.dicyclohexylamine salt is thereby obtained as colorless crystals. Yield: 82.7 % M.p. 191°-192° C.(decomp.) (This product begins to gradually decompose at about 172° C.). All the physico-chemical properties of this product are identical with those of the sample obtained in Example 1-(3).

reactant | (3S)-2-[(2S)-3-benzoylthio-2-methylpropionyl]-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid dicyclohexylamine salt | 1.26 g | C1(CCCCC1)NC1CCCCC1.C(C1=CC=CC=C1)(=O)SC[C@H](C(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)O)C
reactant | ether | CCOCC | C4H10O
reactant | n-hexane | CCCCCC | C6H14
solvent | ammonia | 15 ml | N | H3N
solvent | methanol | 5 ml | CO | CH4O
product | dicyclohexylamine | Yield: 82.7 % | C1(CCCCC1)NC1CCCCC1 | C12H23N
